US07396846B2
2-tert-Butoxycarbonylamino-3-fluoro-2-fluoromethyl-propionic Acid
To a suspension of methyl 2-amino-3-fluoro-2-fluoromethyl-propionate hydrochloride (250 mg, 1.32 mmol; prepared as described in Synthesis, 1994, pp 701-702) in 10 mL of acetonitrile, was added Me4NOH.5H2O (400 mg, 2.20 mmol). The mixture was stirred at room temperature under argon for 30 min, and then di-tert-butyl dicarbonate (432 mg, 1.98 mmol) was added. The mixture was stirred for 48 h, the solvent evaporated and the residue portioned between water and ether. The aqueous layer was washed with ether, acidified with solid citric acid to pH 3-4 and extracted with ethyl acetate. The combined organic layers were washed with water, brine, dried over Na2SO4 and evaporated to yield 294 mg (92%) of the desired product as a white solid. 1H-NMR is consistent with structure; MS (ion spray) 238.1 (M−1).

reactant | methyl 2-amino-3-fluoro-2-fluoromethyl-propionate hydrochloride | 1.32 mmol, 250 mg | Cl.NC(C(=O)OC)(CF)CF
reactant | di-tert-butyl dicarbonate | 1.98 mmol, 432 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | 2-tert-Butoxycarbonylamino-3-fluoro-2-fluoromethyl-propionic Acid | 294 mg, 92% | C(C)(C)(C)OC(=O)NC(C(=O)O)(CF)CF | C9H15F2NO4
